US08871756B2
N-[3-(Aminomethyl)oxetan-3-yl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine
To a stirred of 2,2,2-trifluoro-N-[(3-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}oxetan-3-yl)methyl]acetamide (70 mg, 0.135 mmol) in ethanol (5 mL) was added an aqueous solution of sodium hydroxide (5 N, 1 mL). After being stirred at room temperature overnight, the resulting mixture was diluted with water (15 mL), and extracted with dichloromethane (15 mL×3). The organic layers were combined, washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified by preparative HPLC to afford 7 mg of the desired product as a white solid. MS obsd. (ESI+) [(M+H)+] 424, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (s, 1 H), 7.83-7.78 (m, 2 H), 7.71-7.68 (m, 1 H), 7.61-7.54 (m, 3 H), 5.45 (d, 1 H), 5.15 (brs, 1 H), 4.81-4.74 (m, 5 H), 4.51 (brs, 3 H), 3.54 (brs, 2 H), 2.45 (s, 3 H).

reactant | 2,2,2-trifluoro-N-[(3-{[6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-yl]amino}oxetan-3-yl)methyl]acetamide | 0.135 mmol, 70 mg | FC(C(=O)NCC1(COC1)NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O)(F)F | C24H24F3N5O3S
reactant | sodium hydroxide | 5 N, 1 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | water | 15 mL | O | H2O
product | N-[3-(Aminomethyl)oxetan-3-yl]-6-methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)quinazolin-4-amine | 7 mg | NCC1(COC1)NC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)=O | C22H25N5O2S
